US05196533
Chemical Properties of Quinoid-6,6-dimethyldihydropterin
Quinoid-6,6-Me2PH2 is an intermediate in the synthesis of 6,6-Me2PH4 (see above). It can also be prepared quantitatively by bromine oxidation of 6,6-Me2PH4. The properties of q-6,6-Me2PH2 were determined on material made by the latter route. 6,6-Me2PH4 dihydrochloride, 0.1 mmoles, was dissolved in 3 ml methanol, and 22 mg Br2 (0.14 mmoles) was added. Removal of solvent by rotary evaporation left a dark orange film. The sample was repeatedly redissolved in 3 ml fresh methanol and evaporated to dryness for a total of 6 times, until the film was light yellow and no odor of bromine could be detected. Failure to remove the excess bromine resulted in complex absorbance changes that hindered spectral studies of q-6,6-Me2PH2. The quantitative yield was established by reduction back to 6,6-Me2PH4 using 2-mercaptoethanol, which resulting in full recovery of the original material.

reactant | 6,6-Me2PH4 | CC1(CNC2=C(N1)C(=O)N=C(N2)N)C | C8H13N5O
reactant | bromine | BrBr | Br2
reactant | Br2 | 0.14 mmoles, 22 mg | BrBr | Br2
reactant | 2-mercaptoethanol | SCCO | C2H6OS
solvent | methanol | 3 ml | CO | CH4O
product | 6,6-dimethyldihydropterin | quantitative yield | CC1(N=C2C(N=C(N=C2NC1)N)=O)C | C8H11N5O
